US07645789B2
To a mixture of 5-nitro-1H-indole (6.0 g, 37 mmol) and AlCl3 (24 g, 0.18 mol) in CH2Cl2 (100 mL) at 0° C. was added 2-bromo-2-methyl-propane (8.1 g, 37 mmol) dropwise. After being stirred at 15° C. overnight, the mixture was poured into ice (100 mL). The precipitated salts were removed by filtration and the aqueous layer was extracted with CH2Cl2 (30 mL×3). The combined organic layers were washed with water, brine, dried over Na2SO4 and concentrated under vacuum to obtain the crude product, which was purified by column chromatography on silica gel (petroleum ether/ethyl acetate=20:1) to give 3-tert-butyl-5-nitro-1H-indole (2.5 g, 31%). 1H NMR (CDCl3, 400 MHz) δ 8.49 (d, J=1.6 Hz, 1H), 8.31 (brs, 1H), 8.05 (dd, J=2.0, 8.8 Hz, 1H), 7.33 (d, J=8.8 Hz, 1H), 6.42 (d, J=1.6 Hz, 1H), 1.42 (s, 9H).

reactant | 5-nitro-1H-indole | 37 mmol, 6.0 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | AlCl3 | 0.18 mol, 24 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-bromo-2-methyl-propane | 37 mmol, 8.1 g | BrC(C)(C)C | C4H9Br
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-tert-butyl-5-nitro-1H-indole | 2.5 g, 31% | C(C)(C)(C)C1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C12H14N2O2
